US05463077
By working in accordance with Use Example 4, starting from 0.8 g of (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindol-4-ol hydrochloride and 0.41 g of (5-methoxy-3-indolyl)-acetic acid, 0.66 g of (3aS, 4S, 7aS)-7,7-diphenyl-2-[(5-methoxy-3-indolyl)-acetyl]-4-(2-methoxyphenyl)-perhydroisoindol-4-ol is obtained in the form of a beige foam.

reactant | (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindol-4-ol hydrochloride | 0.8 g | Cl.C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CNC[C@H]12)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1
reactant | (5-methoxy-3-indolyl)-acetic acid | 0.41 g | COC=1C=C2C(=CNC2=CC1)CC(=O)O | C11H11NO3
product | (3aS, 4S, 7aS)-7,7-diphenyl-2-[(5-methoxy-3-indolyl)-acetyl]-4-(2-methoxyphenyl)-perhydroisoindol-4-ol | 0.66 g | C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CN(C[C@H]12)C(CC1=CNC2=CC=C(C=C12)OC)=O)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C38H38N2O4
